*AD8310 SPICE Macro-model
**Description: Logarithmic Amplifier
*Generic Desc: Fast, Voltage-Output, DC to 440 MHz, 95 dB Logarithmic Amplifier
*Developed by: Joel Dobler
*
*Revision History:
*1.0 (2/2014) -JD
*
*Copyright 2014 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
*
* BEGIN Notes:
*
* Not Modeled:
*   Noise on Output Stage
*	Offset Compensation Loop
*	Random input DC offsets
*
* Parameters/Affects modeled include:
*   Vout saturation (due to detectors)
*	Vout saturation (due to larger than nominal slopes)
*   Transfer Function Ripple
*   Input Z as a function of frequency
*   Adjustable Slope and Intercept (w/ external connections)
*   Input DC bias
*   Vout function of frequency
*   Output Filtering (video BW)
*   Enable/Disable Function
*   Supply Current (@ 5V supply)
*   Vout sensitivity limit
*   Temperature Drift
*
* Supply range:
*    Single Supply: 2.7V to 5.5V
*
*
*
* Typical Specifications used in Model
*
* END Notes



****************************************************************************************************
****************************************************************************************************
*******************************	      Test Setup			****************************************

**  Source Syntax:

*	DC Voltage Source:
* 	V{name} {+node} {-node} [DC_value]

**  Statement syntax:
*	DC sweep:
* .DC [DEC] [OCT] {source name} {DC_start_voltage} {DC_stop_voltage} {number of points per decade/octave}

*	Set temperature:
* .TEMP {VALUE}

*	Sweep temperature over a few values:
* .TEMP {VALUE1} {VALUE2} {VALUE3} ...

*	Step a source, parameter, variable, etc:
* .step {var_name} {start} {stop} {increment}


****************************************************************************************************
****************************************************************************************************
**		DC sweeps 			   	**

** DC source
*V1	INHI_EXT INLO_EXT .001

****************************************************************************************************
**		Transient Sweeps		**

.param Vpeak=28.2843e-6

** Transient source

Vtran IN 0 sin(0 {Vpeak} 100MEG)

**  RF Burst Sources
*Vtran IN tran_neg sin(0 1.414 100MEG 150n)
*Vtran_neg tran_neg 0 sin(0 -1.414 100MEG 1000n)


****************************************************************************************************
****************************************************************************************************

**		Off chip input network		**
R_source IN IN_50 50
R_dc_path IN_50 0 100meg
Cc1	IN_50 INHI_EXT 1u

R1	INHI_EXT INLO_EXT 52.3
C_lo INLO_EXT 0 .01u

Vsup VPOS_EXT 0 5
Venbl ENBL_EXT 0 5
C_comp OFLT_EXT 0 .00001u
C_op_flt BFIN_EXT 0 .00001u
R_out VOUT_EXT 0 10meg


** Subcircuit Call


X_AD8310_1 INHI_EXT INLO_EXT VPOS_EXT OFLT_EXT VOUT_EXT BFIN_EXT ENBL_EXT AD8310_MODEL


**	Output Filtering capacitor - Uncomment and size accordingly to adjust Video BW
*C_op_flt BFIN_EXT 0 10n

** Slope Adjust Resistor - Uncomment and size accordingly
**R_slope det_sum vout 12.1k
*R_slope BFIN_EXT VOUT_EXT 12.1k


****************************************************************************************************
**		Off chip input network		**
*Rtran tran_in IN_ext 50
*C_hi IN_ext INHI 10u
*R1	INHI	INLO	52.3
*C_lo INLO 0 10u

*Vsup VPOS 0 5
*Venbl ENBL 0 5


*****************************************************************************************************
*****************************************************************************************************
*Node Assignments
*
*					 Positive Signal Input
*					 | Negative Signal Input
*					 | | Postive Supply
*					 | | | Offset Filter Access
*					 | | | | Log Output
*					 | | | | | Buffer Input
*					 | | | | | | Chip Enable
*					 | | | | | | |
.SUBCKT AD8310_MODEL 8 1 5 3 4 6 7

*Supply Current
G1 0 5 VALUE = {IF(V(7) >= 2.3, 8m, 0.05u)}

*Input Stage
R1 8 9 500
R2 1 9 500
C1 8 1 1.4p
R3 8 0 100meg
R4 1 0 100meg
V1 9 0 3.2578
E1 10 0 VALUE = {IF(V(7) >= 2.3 ,V(8)-V(1), 0)}
V2 12 11 0u
E13 44 0 24 0 1000
R29 44 oflt 2625
C23 3 0 33p
E14 45 0 VALUE = {IF(V(3) <= 15m, V(3), 15m)}
E2 11 10 VALUE = {0}

*Amplifier Stages
E3 13 0 VALUE = {998.692u*(TEMP+287.775)*TANH(V(12)/(172.5u*(TEMP+274.15)))}
R5 13 14 1k
C2 14 0 .18p
E4 15 0 VALUE = {904.1875u*(TEMP+287.334488)*TANH(V(14)/(172.5u*(TEMP+274.15)))}
R6 15 16 1k
C3 16 0 .08p
E5 17 0 VALUE = {903.975u*(TEMP+287.7372)*TANH(V(16)/(172.5u*(TEMP+274.15)))}
R7 17 18 1k
C4 18 0 .08p
E6 19 0 VALUE = {801.8u*(TEMP+301.1642)*TANH(V(18)/(172.5u*(TEMP+274.15)))}
R8 19 20 1k
C5 20 0 .108p
E7 21 0 VALUE = {896.75u*(TEMP+301.1642)*TANH(V(20)/(172.5u*(TEMP+274.15)))}
R9 21 22 1k
C6 22 0 .085p
E8 23 0 VALUE = {977.5u*(TEMP+273.2804)*TANH(V(22)/(172.5u*(TEMP+274.15)))}
R10 23 24 1k
C7 24 0 .085p

*Detector Stages
G2 0 25 VALUE = {(7.76n*TEMP + 29.8147u)*(COSH(V(14)/(172.5u*(TEMP+274.15)))/(1+COSH(V(14)/(172.5u*(TEMP+274.15)))))}
C8 25 0 0.3p
R11 25 26 4k
G3 0 27 VALUE = {-(7.76n*TEMP + 29.8147u)/(1+COSH(V(14)/(172.5u*(TEMP+274.15))))}
C9 27 0 0.3p
R12 27 26 4k
G4 0 28 VALUE = {(.9885n*TEMP + 29.70868u)*(COSH(V(16)/(172.5u*(TEMP+274.15)))/(1+COSH(V(16)/(172.5u*(TEMP+274.15)))))}
C10 28 0 0.3p
R13 28 26 4k
G5 0	29 VALUE = {-(.9885n*TEMP + 29.70868u)/(1+COSH(V(16)/(172.5u*(TEMP+274.15))))}
C11 29 0 0.3p
R14 29 26 4k
G6 0 30 VALUE = {(.9885n*TEMP + 29.70868u)*(COSH(V(18)/(172.5u*(TEMP+274.15)))/(1+COSH(V(18)/(172.5u*(TEMP+274.15)))))}
C12 30 0 0.3p
R15 30 26 4k
G7 0 31 VALUE = {-(.9885n*TEMP + 29.70868u)/(1+COSH(V(18)/(172.5u*(TEMP+274.15))))}
C13 31 0 0.3p
R16 31 26 4k
G8 0 32 VALUE = {(3.954n*TEMP + 29.6286u)*(COSH(V(20)/(172.5u*(TEMP+274.15)))/(1+COSH(V(20)/(172.5u*(TEMP+274.15)))))}
C14 32 0 0.3p
R17 32 26 4k
G9 0 33 VALUE = {-(3.954n*TEMP + 29.6286u)/(1+COSH(V(20)/(172.5u*(TEMP+274.15))))}
C15 33 0 0.3p
R18 33 26 4k
G10 0	34 VALUE = {(7.908n*TEMP + 29.5219u)*(COSH(V(22)/(172.5u*(TEMP+274.15)))/(1+COSH(V(22)/(172.5u*(TEMP+274.15)))))}
C16 34 0 0.3p
R19 34 26 4k
G11 0 35 VALUE = {-(7.908n*TEMP + 29.5219u)/(1+COSH(V(22)/(172.5u*(TEMP+274.15))))}
C17 35 0 0.3p
R20 35 26 4k
G12 0 36 VALUE = {(37.46n*TEMP + 57.0747u)*(COSH(V(24)/(172.5u*(TEMP+274.15)))/(1+COSH(V(24)/(172.5u*(TEMP+274.15)))))}
C18 36 0 0.3p
R21 36 26 4k
G13 0 37 VALUE = {-(37.46n*TEMP + 57.0747u)/(1+COSH(V(24)/(172.5u*(TEMP+274.15))))}
C19 37 0 0.3p
R22 37 26 4k
G14 0 38 VALUE = {(7.132n*TEMP + 27.5784u)*(COSH(1.2*V(12)/(172.5u*(TEMP + 274.15)))/(1+COSH(1.2*V(12)/(172.5u*(TEMP + 274.15)))))}
G15 0 39 VALUE = {-(7.132n*TEMP + 27.5784u)/(1+COSH(1.2*V(12)/(172.5u*(TEMP + 274.15))))}
G16 0 38 VALUE = {(4.7n*TEMP + 26.8338u)*(COSH(.25*V(12)/(172.5u*(TEMP + 274.15)))/(1+COSH(.25*V(12)/(172.5u*(TEMP + 274.15)))))}
G17 0 39 VALUE = {-(4.7n*TEMP + 26.8338u)/(1+COSH(.25*V(12)/(172.5u*(TEMP + 274.15))))}
G18 0 38 VALUE = {(9.564n*TEMP + 31.8017u)*(COSH(.045*V(12)/(172.5u*(TEMP + 274.15)))/(1+COSH(.045*V(12)/(172.5u*(TEMP + 274.15)))))}
G19 0 39 VALUE = {-(9.564n*TEMP + 31.8017u)/(1+COSH(.045*V(12)/(172.5u*(TEMP + 274.15))))}
C20 38 0 0.4p
R23 38 26 800
C21 39 0 0.4p
R24 39 26 800
G20 0 26 VALUE = {-45u}
R25 26 0 3.075k

*Output Stage
E9 40 0 VALUE = {IF(V(26) <= .66, V(26), 0.66)}
R26 6 40 3k
C22 6 0 2.1p
E10 41 0 6 42 1000
E11 43 0 VALUE = {IF(V(41) >= 0.4, v(41), 0.4)}
E12 4 0 VALUE = {IF(V(43) <= 4.75, v(43), 4.75)}
R27 42 0 1k
R28 4 42 3k

.ENDS



*********************************************************************************************************************************
*********************************************************************************************************************************
**	Analysis Statements					**
*
*	Circuit is currently setup for a simple DC sweep at temperature of 27 degrees.  To run
*	other analyses, comment out the DC sweep lines and uncomment the desired analysis lines.


****************************************************************************************************
**		DC sweep 			   	**
*
*	This should be similar to Figure 4 in the datasheet; the 10 MHz curve.

*.DC DEC V1 1u 6.5 20
*.TEMP 27


****************************************************************************************************
****************************************************************************************************
**		DC sweep and Temperature sweep over 3 temperatures: -40, 27, 85 C			   	**
*
*	This should be similar to Figure 3 in the datasheet.

*.DC DEC V1 1u 6.5 20
*.TEMP -40 27 85


****************************************************************************************************
****************************************************************************************************
**		DC sweep and Temperature sweep over multiple 			   	**
**		temperatures beteen  -40 & 85 in steps of 5 degrees			**


*.DC DEC V1 1u 6.5 20
*.STEP TEMP -40 85 5


****************************************************************************************************
****************************************************************************************************
**		AC sweep					**

**	AC source
*VAC INHI INLO AC .001

**	 Analysis Statements
*.AC DEC 20 1 10g
*.TEMP 27

****************************************************************************************************
****************************************************************************************************
**		Transient sweep		**


*Full Signal Sweep: -90 dBV to +6 dBV
* Vin (dBV)         =     -90		-88			 -86		 -84		-82		   -80		  -78			-76			-74		   -72	      -70
.step param Vpeak list 89.4427e-6 112.6017e-6 141.7572e-6 178.4617e-6 224.67e-6 282.8427e-6 356.0779e-6 448.2755e-6 564.3454e-6 710.4688e-6 894.427e-6
* -68		-66		-64		  -62		-60		   -58		  -56	  -54		-52		   -50	      -48
+1.126e-3 1.4176e-3 1.7846e-3 2.2467e-3 2.8284e-3 3.5608e-3 4.4828e-3 5.6435e-3 7.1047e-3 8.9443e-3 11.2602e-3
*-46		-44		   -42		  -40		 -38		-36		  -34	     -32		-30		   -28	       -26
+14.1757e-3 17.8462e-3 22.467e-3 28.2843e-3 35.6078e-3 44.8275e-3 56.4345e-3 71.0469e-3 89.4427e-3 112.602e-3 141.757e-3
*-24		-22		   -20		  -18		  -16		 -14		  -12	    -10	   -8	 -6	    -4
+178.4617e-3 224.67e-3 2.8284e-1 356.0779e-3 448.2755e-3 564.3454e-3 710.4688e-3 .8944 1.126 1.4176 1.7846
*-2	 0		 +2		+4	   +6
+2.2467 2.8284e0 3.5608 4.4828 5.6435

*.tran 1n 10m 0 10n
.tran 10u 5u
.TEMP -40

****************************************************************************************************
****************************************************************************************************
**		RF Pulse Respose - Use with .tran statement 				**
*
*	This should be similar to Figures 9 through 14 in the datasheet

**	Transient Sources

**	 Analysis Statements
*.tran 1n 200u 0 10n
*.TEMP 27
*.OP
*.PROBE
*.END

****************************************************************************************************


.OP
.PROBE
.END
